US05082838
9-Phenyl-7-propyl-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3] thiazine-6,8(7H)-dione
Sodium hydrosulfide (3.3 g) was added to a solution of 6-chloro-1-(3-chloropropyl)-5-phenyl-3-propyluracil (7 g) in DMF (60 ml) little by little under ice cooling and the mixture was stirred for 1 hour. The reaction solution was concentrated to dryness. The residue was dissolved in methylene chloride-H2O, and the organic layer was washed with water and dried. The solvent was evaporated and the resulting crude crystals were recrystallized from methanol to give colorless crystals (3.85 g, 62%).

reactant | Sodium hydrosulfide | 3.3 g | [SH-].[Na+]
reactant | 6-chloro-1-(3-chloropropyl)-5-phenyl-3-propyluracil | 7 g | ClC1=C(C(N(C(N1CCCCl)=O)CCC)=O)C1=CC=CC=C1 | C16H18Cl2N2O2
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | 9-Phenyl-7-propyl-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3] thiazine-6,8(7H)-dione | 3.85 g, 62% | C1(=CC=CC=C1)C=1C(N(C(N2C1SCCC2)=O)CCC)=O | C16H18N2O2S
